US06762180B1
(3) 4-[N-acetyl-N-(dimethylaminocarbonylmethyl)-amino]-nitrobenzene
Prepared from 4-[N-(dimethylaminocarbonylmethyl)-amino]-nitrobenzene and acetyl chloride

reactant | 4-[N-(dimethylaminocarbonylmethyl)-amino]-nitrobenzene | CN(C(=O)CNC1=CC=C(C=C1)[N+](=O)[O-])C | C10H13N3O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 4-[N-acetyl-N-(dimethylaminocarbonylmethyl)-amino]-nitrobenzene | C(C)(=O)N(CC(=O)N(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15N3O4
